US07034039B2
Tert-butyl{6-[5-(aminocarbonyl)-4-methyl-1,3-thiazol-2-yl]-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl}methylcarbamate (0.22 g, 0.4 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate to give 2-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-4-methyl-1,3-thiazole-5-carboxamide hydrochloride (0.18 g, 94.7%) as crystals.

reactant | Tert-butyl{6-[5-(aminocarbonyl)-4-methyl-1,3-thiazol-2-yl]-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl}methylcarbamate | 0.4 mmol, 0.22 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1SC(=C(N1)C)C(=O)N)=O)CC(C)C)=O | C28H38N4O5S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-4-methyl-1,3-thiazole-5-carboxamide hydrochloride | 0.18 g, 94.7% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1SC(=C(N1)C)C(=O)N)=O)CC(C)C | InChI=1S/C23H30N4O3S.ClH/c1-5-6-9-30-19-17-10-15(22-26-14(4)20(31-22)21(25)28)7-8-16(17)23(29)27(12-13(2)3)18(19)11-24;/h7-8,10,13H,5-6,9,11-12,24H2,1-4H3,(H2,25,28);1H
